US04775675
5,5-Dimethyl-2-(2-hydroxyphenyl)-thiazolidine-4(S)-carboxylic acid
A solution containing 4.5 g (30 mmoles) of D-penicillamine and 3.16 ml (30 mmoles) of salicylaldehyde in 90 ml of 30% methanol is stirred for 3 hours. The precipitated product is filtered out, washed with 50% methanol and dried to give the title acid in a yield of 7.05 g (92.7%) which is recrystallized from methanol, m.p. 179°-181° C., [α]D =129.8° (c=0.48, dimethylformamide).

reactant | D-penicillamine | 30 mmoles, 4.5 g | N[C@H](C(C)(C)S)C(=O)O | C5H11NO2S
reactant | salicylaldehyde | 30 mmoles, 3.16 ml | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | methanol | 90 ml | CO | CH4O
product | 5,5-Dimethyl-2-(2-hydroxyphenyl)-thiazolidine-4(S)-carboxylic acid | CC1([C@@H](NC(S1)C1=C(C=CC=C1)O)C(=O)O)C | C12H15NO3S
